US09062032B2
By using 250 mg of methyl 4-{2-[4-({[2-({3-[(cyclopropylamino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate and 153 mg of ethyl 2-chloropyrimidine-5-carboxylate as starting materials, the reaction similar to Preparation Example 30 was performed, thereby obtaining 307 mg of ethyl 2-{cyclopropyl[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl}-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)benzyl]amino}pyrimidine-5-carboxylate.

reactant | methyl 4-{2-[4-({[2-({3-[(cyclopropylamino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 250 mg | C1(CC1)NCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C36H37N3O4S
reactant | ethyl 2-chloropyrimidine-5-carboxylate | 153 mg | ClC1=NC=C(C=N1)C(=O)OCC | C7H7ClN2O2
product | ethyl 2-{cyclopropyl[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl}-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)benzyl]amino}pyrimidine-5-carboxylate | 307 mg | C1(CC1)N(C1=NC=C(C=N1)C(=O)OCC)CC1=CC(=CC=C1)C(NC=1SC2=C(C1C(NC1=CC=C(C=C1)CCC1=CC=C(C=C1)C(=O)OC)=O)CCCC2)=O | C43H43N5O6S
